US08080546B2
Step 5: 4-Chloro-1-(3-fluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one
A mixture of 1-(3-fluorophenyl)-4-hydroxy-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one (2.15 g, 8.27 mmol) and phosphorous oxychloride (10.0 mL, 107 mmol) was heated at 90° C. in an oil bath for 2.5 h. The excess POCl3 was removed on the rotovap and the resulting orange residue was treated with ice and solid Na2CO3 with stirring, and extracted 3×100 mL with EtOAc. The combined EtOAc layers were washed with brine, dried over MgSO4 and concentrated. Purification of the resulting crude material on an ISCO (40 g column, eluting with a gradient of 25-60% EtOAc in Hexanes) provided the title compound as a yellow crystalline solid. MS (ESI, pos.ion) m/z: 278.1 (M+1).

reactant | 1-(3-fluorophenyl)-4-hydroxy-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | 8.27 mmol, 2.15 g | FC=1C=C(C=CC1)N1N=CC2=C1N(C(C=C2O)=O)C | C13H10FN3O2
reactant | phosphorous oxychloride | 107 mmol, 10.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-1-(3-fluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | ClC=1C2=C(N(C(C1)=O)C)N(N=C2)C2=CC(=CC=C2)F | C13H9ClFN3O
